US07470680B2
3-nitro-2-vinylpyridine.
To an oven dried 20 mL of vial, was added 2-chloro-3-nitropyridine (0.793 g, 5 mmol), tetrabutylammonium chloride (1.390 g, 5.00 mmol), and bis(triphenylphosphine) palladium(II) chloride (0.351 g, 0.500 mmol). After addition of acetonitrile (10 ml) the resulting mixture was stirred at room temperature for 30 min while it was degassed by a flow of nitrogen through a needle inserted to the bottom of the vial. Tributyl(vinyl)tin (1.754 ml, 6.00 mmol) was added and the mixture was further degassed for 5 minutes. Vial was capped and heated at 90° C. for 2 hours. All solvents were removed. The residue was dissolved in dichloromethane and washed with brine. Organic layer was dried over Na2SO4, and filtered. Solvents were removed by roto-vap. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as dark brown oil in 67% yield. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 8.77 (dd, J=4.58, 1.53 Hz, 1 H) 8.18 (dd, J=8.24, 1.53 Hz, 1 H) 7.06-7.57 (m, 2 H) 6.63 (dd, J=16.79, 1.83 Hz, 1 H) 5.74 (dd, J=10.68, 1.83 Hz, 1 H).

reactant | 2-chloro-3-nitropyridine | 5 mmol, 0.793 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | Tributyl(vinyl)tin | 6.00 mmol, 1.754 ml | C(CCC)[Sn](C=C)(CCCC)CCCC
catalyst | tetrabutylammonium chloride | 5.00 mmol, 1.390 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.500 mmol, 0.351 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-nitro-2-vinylpyridine | 67% yield | [N+](=O)([O-])C=1C(=NC=CC1)C=C | C7H6N2O2
